US06107307
3-(naphth-2-yl)-8-azabicyclo[3.2.1]octane oxalate
A mixture of 2.64 gm (8.53 mMol) 3-(naphth-2-yl)-8-ethoxycarbonyl-8-azabicyclo[3.2.1]octane, 2.14 gm (42.7 mMol) hydrazine hydrate, and 2.87 gm (51.2 mMol) potassium hydroxide in 70 mL ethylene glycol was heated at reflux for 2 hours. The reaction mixture was allowed to cool gradually to room temperature, poured into water and extracted well with diethyl ether. The organic phase was dried over sodium sulfate and concentrated under reduced pressure. The residue was treated with oxalic acid to provide the title compound.

reactant | 3-(naphth-2-yl)-8-ethoxycarbonyl-8-azabicyclo[3.2.1]octane | 8.53 mMol, 2.64 gm | C1=C(C=CC2=CC=CC=C12)C1CC2CCC(C1)N2C(=O)OCC | C20H23NO2
reactant | hydrazine hydrate | 42.7 mMol, 2.14 gm | O.NN
reactant | potassium hydroxide | 51.2 mMol, 2.87 gm | [OH-].[K+]
reactant | water | O | H2O
solvent | ethylene glycol | 70 mL | C(CO)O | C2H6O2
product | 3-(naphth-2-yl)-8-azabicyclo[3.2.1]octane oxalate | C(C(=O)O)(=O)O.C1=C(C=CC2=CC=CC=C12)C1CC2CCC(C1)N2 | InChI=1S/C17H19N.C2H2O4/c1-2-4-13-9-14(6-5-12(13)3-1)15-10-16-7-8-17(11-15)18-16;3-1(4)2(5)6/h1-6,9,15-18H,7-8,10-11H2;(H,3,4)(H,5,6)
